US04568472
Borated Mixed Bis(2-hydroxyethyl)Oleylamine 1-(2-Hydroxyethyl)-2-Heptadecenyl Imidazoline
Approximately 170 g of 1-(2-hydroxyethyl)-2-heptadecenyl imidazoline, 170 g bis(2-hydroxyethyl)oleylamine, 150 g toluene solvent and 62 g boric acid were heated to reflux in a reactor equipped as described in Example 2. Approximately 47 ml water was removed by azeotropic distillation at temperatures up to 175° C. over a period of about 5 hours. The solvent was removed by azeotropic distillation and the borated product was filtered hot through diatomaceous earth to yield a clean, brown, liquid product. Certain of the mixed borated material was then subjected to testing in a low velocity friction apparatus test described below. Test results are reported in Table 1 below.

reactant | 1-(2-hydroxyethyl)-2-heptadecenyl imidazoline | 170 g | OCCN1C(=NCC1)C=CCCCCCCCCCCCCCCC | C22H42N2O
reactant | bis(2-hydroxyethyl)oleylamine | 170 g | OCCC(CCCCCCC\C=C/CCCCCCCCN)CCO | C22H45NO2
reactant | boric acid | 62 g | B(O)(O)O | BH3O3
solvent | toluene | 150 g | C1(=CC=CC=C1)C | C7H8
product | Bis(2-hydroxyethyl)Oleylamine 1-(2-Hydroxyethyl)-2-Heptadecenyl Imidazoline | OCCN1C(=NCC1)C=CCCCCCCCCCCCCCCC.OCCC(CCCCCCC\C=C/CCCCCCCCN)CCO | InChI=1S/C22H42N2O.C22H45NO2/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-22-23-18-19-24(22)20-21-25;23-19-15-13-11-9-7-5-3-1-2-4-6-8-10-12-14-16-22(17-20-24)18-21-25/h16-17,25H,2-15,18-21H2,1H3;1-2,22,24-25H,3-21,23H2/b;2-1-
